US09359329B2
In a Parr flask, a mixture of 1.1 g (8.2 mmol) of 5-(prop-1-en-2-yl)pyridin-2-amine in 40 mL of MeOH and 0.11 g of 10% Pd/C is hydrogenated at 7 bar for 24 hours. The reaction mixture is then filtered through Whatman GF/F paper and concentrated under reduced pressure. 1.07 g of 5-(propan-2-yl)pyridin-2-amine are thus obtained in the form of a yellow oil, which is used without further purification in the following step.

reactant | 5-(prop-1-en-2-yl)pyridin-2-amine | 8.2 mmol, 1.1 g | C=C(C)C=1C=CC(=NC1)N | C8H10N2
solvent | MeOH | 40 mL | CO | CH4O
catalyst | Pd/C | 0.11 g | [Pd] | Pd
product | 5-(propan-2-yl)pyridin-2-amine | 1.07 g, Yield=96% | CC(C)C=1C=CC(=NC1)N | C8H12N2
